US07138425B2
a) 2-(3-Nitro-6-Methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-6-methoxyphenyl)-5-bromobenzoxazole (400 mg, 1.14 mmol) and benzothiophene-2-boronic acid (306 mg, 1.71 mmol) the subtitle compound was obtained (569 mg, 123%). The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-methoxyphenyl)-5-bromobenzoxazole | 1.14 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | benzothiophene-2-boronic acid | 1.71 mmol, 306 mg | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 2-(3-Nitro-6-Methoxyphenyl)-5-(2-benzothiophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C22H14N2O4S
